US06472412B1
A solution of potassium hydroxide (4.71 g) in water (32 mL) is added to a solution of methyl 4-cyclopentyloxy-5-methoxypyridine-2-carboxylate (7.03 g) in methanol (188 mL) and the mixture allowed to stand for 45 hours. After concentrating in vacuo the residue is dissolved in water, washed with ethyl acetate and basefied to pH 5 with concentrated aqueous hydrochloric acid. The mixture is extracted with dichloromethane, the extracts dried (MgSO4) and evaporated to give 4-cyclopentyloxy-5-methoxypyridine-2-carboxylic acid (2.4 g) as a white solid.

reactant | potassium hydroxide | 4.71 g | [OH-].[K+]
reactant | methyl 4-cyclopentyloxy-5-methoxypyridine-2-carboxylate | 7.03 g | C1(CCCC1)OC1=CC(=NC=C1OC)C(=O)OC | C13H17NO4
solvent | water | 32 mL | O | H2O
solvent | methanol | 188 mL | CO | CH4O
product | 4-cyclopentyloxy-5-methoxypyridine-2-carboxylic acid | 2.4 g | C1(CCCC1)OC1=CC(=NC=C1OC)C(=O)O | C12H15NO4
